US07612099B2
N-(2-{2-[(4-Hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-benzamide
Using general procedure C, 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one (Lit. 11) was reacted with benzaldehyde and N-[2-(1H-indol-3-yl)-ethyl]-benzamide to give the title compound as a grey solid. MS: 494.3 ([M+H]+).

reactant | 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one | OC1=CC(NC1C(C)C)=O | C7H11NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[2-(1H-indol-3-yl)-ethyl]-benzamide | N1C=C(C2=CC=CC=C12)CCNC(C1=CC=CC=C1)=O | C17H16N2O
product | N-(2-{2-[(4-Hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-benzamide | OC1=C(C(NC1C(C)C)=O)C(C=1NC2=CC=CC=C2C1CCNC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C31H31N3O3
